US05962685
Synthesis of 4-(2-propyl)-5-ethoxy-2-(2-benzyloxy-6-chlorophenyl)oxazole
To 20 ml DMF solution containing 0.39 g benzyl alcohol, was added 60% sodium hydride in an amount of 0.16 g. After the end of hydrogen gas generation, DMF solution containing 1.0 g 4-(2-propyl)-5-ethoxy-2-(chloro-6-fluorophenyl)oxazole was added to the solution while keeping at -10° C. The solution reacted was heated up to 70° C. and then stirred for 5 hours. After completing the reaction, the solution reacted was poured into ice water and then extracted with ethyl acetate. The organic layer obtained was washed with water and saturated saline solution in turn, then dried by using anhydrous magnesium sulfate, and the solvent used was removed by distillation under reduced pressure. The residue obtained was purified by using silica gel column chromatography, affording the objective substance in an amount of 0.82 g.

reactant | benzyl alcohol | 0.39 g | C(C1=CC=CC=C1)O | C7H8O
reactant | sodium hydride | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 4-(2-propyl)-5-ethoxy-2-(chloro-6-fluorophenyl)oxazole | 1.0 g | CC(C)C=1N=C(OC1OCC)C1=C(C=CC=C1F)Cl | C14H15ClFNO2
solvent | DMF | CN(C)C=O | C3H7NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 4-(2-propyl)-5-ethoxy-2-(2-benzyloxy-6-chlorophenyl)oxazole | CC(C)C=1N=C(OC1OCC)C1=C(C=CC=C1Cl)OCC1=CC=CC=C1 | C21H22ClNO3
